US05132475
In a 10 mL round-bottom flask, 1.88 g of diethyl ethylmalonate (10 mmol), 2.18 g of bromotrichloromethane (11 mmol), 79 mg of tetra-n-butylammonium fluoride trihydrate (0.25 mmol), and 69 mg of potassium carbonate (0.5 mmol) were stirred at 24° C. for 1 h. An exothermic reaction caused the temperature of the mixture to rise to 40° C. After filtration of the solids, the solution was found to contain 2.5 g (95% yield) of diethyl α-bromo-α-ethylmalonate.

reactant | diethyl ethylmalonate | 10 mmol, 1.88 g | C(C)C(C(=O)OCC)C(=O)OCC | C9H16O4
reactant | bromotrichloromethane | 11 mmol, 2.18 g | BrC(Cl)(Cl)Cl | CBrCl3
catalyst | tetra-n-butylammonium fluoride trihydrate | 0.25 mmol, 79 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | potassium carbonate | 0.5 mmol, 69 mg | C([O-])([O-])=O.[K+].[K+]
product | diethyl α-bromo-α-ethylmalonate | 2.5 g, 95% yield | BrC(C(=O)OCC)(C(=O)OCC)CC | C9H15BrO4
